US08877782B2
2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-propionic acid ethyl ester
As described for example 15, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using DL-alanine ethylester hydrochloride instead of 3-methoxypropylamine, to the title compound (23 mg, 17%) which was obtained as a light yellow gum. MS: m/e=410.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | DL-alanine ethylester hydrochloride | Cl.C(C)OC(C(N)C)=O
product | 2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-propionic acid ethyl ester | 23 mg, 17% | C(C)OC(C(C)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C22H23N3O5
